US09388308B2
In accordance with the procedure in Synthesis Example 1 (an imidazole-isocyanate adduct), 2-ethyl-4-methylimidazole (22 g: 0.2 mole) was reacted with hexamethylene diisocyanate (16.8 g: 0 to 1 mole). As a solid product, a 2-ethyl-4-methylimidazole hexamethylene diisocyanate adduct was obtained (hereinafter simply referred to as A-3).

reactant | imidazole isocyanate | N1C=NC=C1.[N-]=C=O
reactant | 2-ethyl-4-methylimidazole | 0.2 mole, 22 g | C(C)C=1NC=C(N1)C | C6H10N2
reactant | hexamethylene diisocyanate | 0 to 1 mole, 16.8 g | C(CCCCCN=C=O)N=C=O | C8H12N2O2
product | 2-ethyl-4-methylimidazole hexamethylene diisocyanate | C(CCCCCN=C=O)N=C=O.C(C)C=1NC=C(N1)C | InChI=1S/C8H12N2O2.C6H10N2/c11-7-9-5-3-1-2-4-6-10-8-12;1-3-6-7-4-5(2)8-6/h1-6H2;4H,3H2,1-2H3,(H,7,8)
